US04061641
1-[1-(2-[3-Indolyl] ethyl)piperid-4-yl]urea
1-benzoyl-3-[1-(2-[3-indolyl]ethyl)piperid-4-yl]urea hydrochloride (1.180 g.) was refluxed in 2N sodium hydroxide solution (20 ml) for 1 hour. The reaction mixture was cooled and the title compound was filtered off, (0.678 g., 86%) m.p. 212.2° (dec).

reactant | 1-benzoyl-3-[1-(2-[3-indolyl]ethyl)piperid-4-yl]urea hydrochloride | 1.180 g | Cl.C(C1=CC=CC=C1)(=O)NC(=O)NC1CCN(CC1)CCC1=CNC2=CC=CC=C12
solvent | sodium hydroxide | 2N, 20 ml | [OH-].[Na+]
product | 1-[1-(2-[3-Indolyl] ethyl)piperid-4-yl]urea | N1C=C(C2=CC=CC=C12)CCN1CCC(CC1)NC(=O)N | C16H22N4O
